US05571806
Following the proceedure described in Example 1, 3.0 grams of 10H-dibenz[b,f][1,4]oxazepin-11-one and 3.7 grams of 2-propyl bromide were reacted in the presence of 0.82 grams of a 50% dispersion of sodium hydride in mineral oil and 50 ml of dry dimethylformamide. The product was purified on the silica gel column (ethyl acetate/hexane, 1:4). The resulting oil was dissolved in petroleum ether which on standing gave 1.33 grams (30% of theory) of 10-isopropyl-10H-dibenz[b,f][1,4]oxazepin-11-one as colorless needles, m.p. 102°-103° C.

reactant | 10H-dibenz[b,f][1,4]oxazepin-11-one | 3.0 grams | C1=CC=CC2=C1C(NC1=C(O2)C=CC=C1)=O | C13H9NO2
reactant | 2-propyl bromide | 3.7 grams | CC(C)Br | C3H7Br
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 10-isopropyl-10H-dibenz[b,f][1,4]oxazepin-11-one | 1.33 grams, 30% | C(C)(C)N1C2=C(OC3=C(C1=O)C=CC=C3)C=CC=C2 | C16H15NO2
